US05852017
6-(1-Pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione
This compound was prepared by the method of Example 1f from 0.8 g (3.3 mmol) of N-(2-trifluoromethyl-4,5-diaminophenyl)pyrrole and 32 g (221 mmol) of diethyl oxalate.

reactant | N-(2-trifluoromethyl-4,5-diaminophenyl)pyrrole | 3.3 mmol, 0.8 g | FC(C1=C(C=C(C(=C1)N)N)N1C=CC=C1)(F)F | C11H10F3N3
reactant | diethyl oxalate | 221 mmol, 32 g | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 6-(1-Pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | N1(C=CC=C1)C=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C13H8F3N3O2
